US09382222B2
A solution of 4-fluoroaniline (484 μL, 5.11 mmol) and pyridine (688 μL, 8.52 mmol) in DCM (20 mL) was treated with methyl 4-(chlorosulfonyl)benzoate (1.00 g, 4.26 mmol) and stirred at room temperature for 3 hours. The mixture was diluted with DCM, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Triturating with pentane gave 4-(4-fluoro-phenylsulfamoyl)-benzoic acid methyl ester (1.02 g, 77%). 1H NMR (300 MHz, CDCl3) δ 8.10 (d, J=8.4 Hz, 2H), 7.78 (d, J=8.4 Hz, 2H), 7.07-6.99 (m, 2H), 6.98-6.88 (m, 2H), 6.75 (br s, 1H), 3.94 (s, 3H). LCMS (m/z, Method A) ES+ 310.0 [M+1]+.

reactant | 4-fluoroaniline | 5.11 mmol, 484 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | pyridine | 8.52 mmol, 688 μL | N1=CC=CC=C1 | C5H5N
reactant | methyl 4-(chlorosulfonyl)benzoate | 4.26 mmol, 1.00 g | ClS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C8H7ClO4S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-fluoro-phenylsulfamoyl)-benzoic acid methyl ester | 1.02 g, 77% | COC(C1=CC=C(C=C1)S(NC1=CC=C(C=C1)F)(=O)=O)=O | C14H12FNO4S
